US06713474B2
trans-N-phenyl-2-(4-{4-amino-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-5-yl}phenyl)acetamide trismaleate was prepared from trans-4-chloro-5-iodo-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidine (1.0 g, 2.18 mmol) and N1-phenyl -2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]acetamide in a similar method to that described for the cis-isomer: 1H NMR (DMSO-d6, 400 MHz) 10.18(s, 1H), 8.18(s, 1H), 7.61(d, 2H), 7.51(m, 5H), 7.31(t, 2H), 7.04(t, 1H), 6.3(bs, 2H), 6.11(s, 6H), 4.58(m, 1H), 3.69(s, 2H), 2.6-3.6(bm, 9H), 2.68(s, 3H), 1.91-2.04(m, 6H), 1.51-1.59(m, 2H);); RP-HPLC (Hypersil HS C18, 5 m, 100 A, 250×4.6 mm; 25%-100% acetonitrile over 10 min, 1 mL/min) tr 6.07 min.; MS:MH+ 524.3.

reactant | trans-4-chloro-5-iodo-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidine | 2.18 mmol, 1.0 g | ClC=1C2=C(N=CN1)N(C=C2I)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C17H23ClIN5
reactant | N1-phenyl -2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]acetamide | C1(=CC=CC=C1)NC(CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C20H24BNO3
reactant | Hypersil | CO[C@H]1[C@@H](C[C@@H]2CN3CCC4=C([C@H]3C[C@@H]2[C@@H]1C(=O)OC)NC5=C4C=CC(=C5)OC)OC(=O)C6=CC(=C(C(=C6)OC)OC)OC | C33H40N2O9
solvent | acetonitrile | C(C)#N | C2H3N
product | trans-N-phenyl-2-(4-{4-amino-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-5-yl}phenyl)acetamide trismaleate | C(\C=C/C(=O)O)(=O)O.C(\C=C/C(=O)O)(=O)O.C(\C=C/C(=O)O)(=O)O.C1(=CC=CC=C1)NC(CC1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C)=O | InChI=1S/C31H37N7O.3C4H4O4/c1-36-15-17-37(18-16-36)25-11-13-26(14-12-25)38-20-27(29-30(32)33-21-34-31(29)38)23-9-7-22(8-10-23)19-28(39)35-24-5-3-2-4-6-24;3*5-3(6)1-2-4(7)8/h2-10,20-21,25-26H,11-19H2,1H3,(H,35,39)(H2,32,33,34);3*1-2H,(H,5,6)(H,7,8)/b;3*2-1-/t25-,26-;;;
